US06207686B1
Methyl (2RS,3SR)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionate (1.14 g) was dissolved in a methanolic 1M solution of potassium hydroxide (11 ml) and the mixture was heated under reflux for 4 hours. The solution was concentrated in vacuo and the residue was dissolved in water and washed with diethyl ether. The aqueous layer was acidified by aqueous 1N hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with brine, dried and evaporated under reduced pressure to give (2RS,3SR)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionic acid (0.998 g).

reactant | Methyl (2RS,3SR)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionate | 1.14 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(C(=O)OC)C(O)C1CCCCC1 | C24H30O4
solvent | potassium hydroxide | 11 ml | [OH-].[K+]
product | (2RS,3SR)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionic acid | 0.998 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(C(=O)O)C(O)C1CCCCC1 | C23H28O4
